US05877199
N-(9-Benzyl-4-methyl-1-methylthiocarbazol-2-ylacetyl)methylsulfonamide
74.6 mg (0.26 mmol) of carbonyldiimidazole was added to 1 ml of a solution of 50 mg (0.13 mmol) of (9-benzyl-4-methyl-1-methylthiocarbazol-2-yl)acetic acid, as obtained in Example 14, in tetrahydrofuran, and the reaction mixture was stirred for 1 hour at room temperature. After this time, 43.8 mg (0.26 mmol) of methanesulfonamide and 70.0 mg (0.26 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene were added to the mixture which was first stirred overnight at room temperature and then refluxed for 2 hours. After this time, an excess of water was added to the mixture, and the resulting aqueous layer was extracted with ethyl acetate. The extracted organic layer was first washed with water and then with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and the solvent was then removed by evaporation under reduced pressure. The residue was subjected to column chromotography (eluent: a 50% v/v solution of ethyl acetate in hexane) to yield 48 mg (80%) of the title compound.

reactant | carbonyldiimidazole | 0.26 mmol, 74.6 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (9-benzyl-4-methyl-1-methylthiocarbazol-2-yl)acetic acid | 0.13 mmol, 50 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)SC)CC(=O)O)C | C23H21NO2S
reactant | methanesulfonamide | 0.26 mmol, 43.8 mg | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.26 mmol, 70.0 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(9-Benzyl-4-methyl-1-methylthiocarbazol-2-ylacetyl)methylsulfonamide | 48 mg, 80% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)SC)CC(=O)CNS(=O)=O)C | C24H24N2O3S2
